US05965743
3.0 g of p-cresol and 4.0 g of 3-bromo-1-chloro propane were placed into 20 ml of water and were subjected to reflux for 1 hour under heating, and whereto 20 ml of the aqueous solution of sodium hydroxide containing 1.2 g of sodium hydroxide were fed dropwise. After subjecting the resultant solution prepared as described hereinabove to reflux for another 2 hours, the solution reacted was poured into ice-water and extracted with ethyl acetate. The ethyl acetate layer resulted was washed with dilute aqueous alkaline solution and saturated saline solution in series, and the organic layer resulted was then dried with anhydrous magnesium sulfate, and the solvent used was removed by distillation under reduce pressure, thereby affording 3.6 g of 3-(4-tolyloxy)-1-chloro propane.

reactant | p-cresol | 3.0 g | C1=CC(=CC=C1O)C | C7H8O
reactant | 3-bromo-1-chloro propane | 4.0 g | BrCCCCl | C3H6BrCl
reactant | sodium hydroxide | 1.2 g | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
product | 3-(4-tolyloxy)-1-chloro propane | 3.6 g | C1(=CC=C(C=C1)OCCCCl)C | C10H13ClO
